US07342014B2
(1R*,4R*,5R*)-4-Iodo-6-oxabicyclo[3.2.1]octan-7-one (2.8 g) was dissolved in a mixed solvent of tetrahydrofuran (27 ml) and water (3 ml), concentrated hydrochloric acid (0.1 ml) was added, and the mixture was heated under reflux for 1 hour. The solvent was distilled off under reduced pressure to obtain (1R*,3R*,4R*)-3-hydroxy-4-iodocyclohexanecarboxylic acid (3.23 g) as a colorless solid.

reactant | (1R*,4R*,5R*)-4-Iodo-6-oxabicyclo[3.2.1]octan-7-one | 2.8 g | I[C@@H]1CC[C@H]2C(O[C@@H]1C2)=O | C7H9IO2
reactant | tetrahydrofuran | 27 ml | O1CCCC1 | C4H8O
solvent | water | 3 ml | O | H2O
solvent | hydrochloric acid | 0.1 ml | Cl | ClH
product | (1R*,3R*,4R*)-3-hydroxy-4-iodocyclohexanecarboxylic acid | 3.23 g | O[C@@H]1C[C@@H](CC[C@H]1I)C(=O)O | C7H11IO3
